US06610456B2
Synthesis of 4-(Hexafluorohydroxyisopropyl)styrene (SHFI)
A 5 L three-neck round-bottom flask was equipped with a mechanical stirrer, thermocouple thermometer, addition funnel with a nitrogen bubbler, and a cooling bath container. The nitrogen-flushed flask was charged with 200 mL anhydrous tetrahydrofuran, 67.5 g (2.77 mol) of magnesium turnings, and a small crystal of iodine. The addition funnel was charged with 500 g (2.73 mol) of freshly distilled 4-bromostyrene. Approximately 10 mL of 4-bromostyrene was added to the flask with vigorous stirring. As soon as the Grignard reaction was started, the flask was charged with an additional 1800 mL of anhydrous tetrahydrofuran. The remainder of the 4-bromostyrene was added dropwise to the stirred reaction at such a rate as to maintain the reaction at a temperature of 40° C. while cooling the flask with an ice/water bath. The addition required 2 hours, after which the cooling bath was removed and the reaction stirred another 1.5 hours. The reaction mixture was then cooled to 0° C. with a dry-ice/acetone bath, and the addition funnel was replaced with a gas inlet tube connected with appropriate back-flow safeguards to a cylinder of hexafluoroacetone. Hexafluoroacetone gas was passed into the reaction mixture over 2 hours while maintaining the reaction temperature below 15° C. with the cooling bath. After the reaction exotherm diminished, the gas addition was stopped. A total of 480 g (2.89 mol) hexafluoroacetone had been added. The cooling bath was removed and the reaction stirred overnight. The reaction was maintained below 10° C. as 500 mL of 6 N hydrochloric acid was added dropwise with stirring over 1 hour. The organic layer was separated and the aqueous layer extracted with three 300 mL portions of diethyl ether. The combined organic layers were washed with three 300 mL portions of brine, dried over sodium sulfate, filtered, and evaporated on the rotary evaporator. The residue was distilled under vacuum collecting fractions 58-78° C. at a vacuum of 800-300 mTorr. A total of 589 g (74%) of product containing approximately 15 mol % complexed tetrahydrofuran (THF) was obtained.

reactant | magnesium | 2.77 mol, 67.5 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 4-bromostyrene | BrC1=CC=C(C=C)C=C1 | C8H7Br
reactant | 4-bromostyrene | 10 mL | BrC1=CC=C(C=C)C=C1 | C8H7Br
reactant | hexafluoroacetone | 2.89 mol, 480 g | FC(C(=O)C(F)(F)F)(F)F | C3F6O
solvent | tetrahydrofuran | 1800 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 4-(Hexafluorohydroxyisopropyl)styrene | FC(C(C(F)(F)F)(C1=CC=C(C=C)C=C1)O)(F)F | C11H8F6O
